* C:\Users\ethan\Desktop\University\ELECTENG 209\electeng-209-team-42\LTSpice Simulations\Master Simulation.asc
* Generated by LTspice 26.0.2 for Windows.
Vsupply N001 0 SINE(0 21.779 500)
X§Reg 0 5V Vin LT1085-5 ;§pnba GND)OUT)IN
Rin Vin N005 33
D1 Vac N005 1N4148
Cin Vin 0 47µ Rser=0.001
Cout 5V 0 10µ Rser=0.001
Rload N002 Vis 29.02
Lload Vac N002 4mH
Rs Vis 0 0.5
Ra Vac Vvs 100k
Rb Vvs 0 4.7k
X§U21 N006 N003 5V 0 N004 LM324 ;§pnba In+)In-)V+)V-)OUT
R1a3 N006 Vis 10k
R1b3 N003 0 10k
R2b3 N004 N003 33k
R2a3 2V1 N006 33k
X§U1 N009 N007 5V 0 N008 LM324 ;§pnba In+)In-)V+)V-)OUT
R1a4 N009 Vvs 18k
R1b4 N007 0 22k
R2b4 N008 N007 22k
R2a4 2V1 N009 22k
R1 5V 2V1 39
R2 2V1 0 27
C1 2V1 0 47µ
R3 Vio N004 3.3k
C2 Vio 0 4.7nF
R4 Vvo N008 3.3k
C3 Vvo 0 4.7nF
Vnoise Vac N001 SINE(0 0.1 100000)
.model D D
.lib C:\Users\ethan\AppData\Local\LTspice\lib\cmp\standard.dio
* .ac dec 30 1 1Meg
.lib LM324.lib
* Power/Signal Sources
* *********************************************************\nELECTENG 209 - Lab 2 (Rev1.2)\nModels required for Lab 2 provided as a starting point.\nLM324.lib should be in the same folder.\nDuleepa J Thrimawithana\n30/05/2021\n*********************************************************
* AC Source, Load and Sensors
* Load \n(2.5VA-7.5VA)
* Current Sens \n(Pmax=?)
* Voltage Sens\n(Vvs(max)=?)
* Simulation Commands\n- Change these as needed
* Current Sensor Amplification
* Voltage Sensor Conditioning
* Voltage Regulator
.tran 0 0.15 0 0.005m
.ic V(Vin)=8
* Current Signal Conditioning
* Zero crossing detector
* Current
* Voltage
* Library below included based on ModelFile attribute of instance X§Reg (C:\Users\ethan\AppData\Local\LTspice\lib\sym\PowerProducts\LT1085-5.asy)
.lib LT1083.lib
.backanno
.end
